US06888003B2
7.1 2-Bromo-4-fluoro-6-chloro-3-(4-chloro-5-trifluoromethyl-1-methyl-1H-pyrazol-3-yl)aniline IVc.1
28 g (0.086 mol) of 4-fluoro-6-chloro-3-(4-chloro-5-trifluoromethyl-1-methyl-1H-pyrazol-3-yl)aniline (described in EP-A 0791571) were dissolved in 200 ml of acetic acid and admixed with 35 g (0.42 mol) of sodium acetate. 13.7 g (0.086 mol) of bromine were added dropwise to this mixture. The mixture was stirred overnight, the volatile components were removed under reduced pressure and the residue was taken up in 200 ml of dichloromethane. This solution was washed with 2 N aqueous NaOH and dried over MgSO4, and the residue obtained after concentration of the solution was chromatographed on silica gel using cyclohexane/ethyl acetate (4/1 v/v). This gave 20 g of the title compound IVc.1.

reactant | 4-fluoro-6-chloro-3-(4-chloro-5-trifluoromethyl-1-methyl-1H-pyrazol-3-yl)aniline | 0.086 mol, 28 g | FC1=C(C=C(N)C(=C1)Cl)C1=NN(C(=C1Cl)C(F)(F)F)C | C11H7Cl2F4N3
reactant | sodium acetate | 0.42 mol, 35 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.086 mol, 13.7 g | BrBr | Br2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-fluoro-6-chloro-3-(4-chloro-5-trifluoromethyl-1-methyl-1H-pyrazol-3-yl)aniline | BrC1=C(N)C(=CC(=C1C1=NN(C(=C1Cl)C(F)(F)F)C)F)Cl | C11H6BrCl2F4N3
